US09260440B2
Step 3: Benzyl 8-oxo-3,4,8,9-tetrahydro-2,4,9,10-tetraazacyclohepta[def]fluorene-2(1H)-carboxylate
A solution of compound 2-benzyl 5-methyl 4-oxo-3,4-dihydro-1H-pyrido[3,4-b]indole-2,5(9H)-dicarboxylate (70 mg, 0.18 mmol), acetic acid (0.15 mL, 2.6 mmol), and hydrazine hydrate (0.86 mL, 1.5 mmol) in methanol (4 mL) was heated at reflux. After 8 h, the solid was collected by hot filtration and washed with water, EtOAc, and dichloromethane, to give the target compound (61 mg, 94%). 1H NMR DMSO-d6) δ 11.8 (s, 1H), 10.1 (s, 1H), 7.54 (d, 1H, J=8.4 Hz), 7.48 (d, 1H, J=7.2 Hz), 7.38 (m, 4H), 7.32 (m, 1H), 7.18 (dd, 1H, J=8.4, 7.2 Hz), 5.15 (s, 2H), 4.82 (m, 2H), 4.28 (m, 2H). MS (ESI) m/e [M+1]+ 361.

reactant | 2-benzyl 5-methyl 4-oxo-3,4-dihydro-1H-pyrido[3,4-b]indole-2,5(9H)-dicarboxylate | 0.18 mmol, 70 mg | O=C1CN(CC=2NC=3C=CC=C(C3C21)C(=O)OC)C(=O)OCC2=CC=CC=C2 | C21H18N2O5
reactant | acetic acid | 2.6 mmol, 0.15 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine hydrate | 1.5 mmol, 0.86 mL | O.NN
solvent | methanol | 4 mL | CO | CH4O
product | Benzyl 8-oxo-3,4,8,9-tetrahydro-2,4,9,10-tetraazacyclohepta[def]fluorene-2(1H)-carboxylate | 61 mg, 94% | O=C1NN=C2C=3C=4C1=CC=CC4NC3CN(C2)C(=O)OCC2=CC=CC=C2 | C20H16N4O3
